US09034921B2
(2S,3R,4R,5S,6R)-2-(3-(Benzo[d][1,3]dioxol-5-ylmethyl)-4-chlorophenyl)-6-(hydroxymethyl)-tetrahydro-2H-pyran-3,4,5-triol (E056)
To a solution of (2S,3R,4R,5S,6R)-2-(4-chloro-3-(3,4-dihydroxybenzyl)phenyl)-6-(hydroxymethyl)-tetrahydro-2H-pyran-3,4,5-triol (E055) (30 mg, 0.0756 mmole) in DMF (4 mL) were added K2CO3 and CH2I2 (7.3 μL). The reaction mixture was stirred at 100° C. overnight and filtered. The resulting crude solution was purified by reverse phase preparative HPLC to yield the title compound (16 mg, 0.0401 mmole, 53%) as a brown gum.

reactant | (2S,3R,4R,5S,6R)-2-(4-chloro-3-(3,4-dihydroxybenzyl)phenyl)-6-(hydroxymethyl)-tetrahydro-2H-pyran-3,4,5-triol | 0.0756 mmole, 30 mg | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC1=CC(=C(C=C1)O)O | C19H21ClO7
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2I2 | 7.3 μL | C(I)I | CH2I2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (2S,3R,4R,5S,6R)-2-(3-(Benzo[d][1,3]dioxol-5-ylmethyl)-4-chlorophenyl)-6-(hydroxymethyl)-tetrahydro-2H-pyran-3,4,5-triol | 0.0401 mmole, 16 mg, 53% | O1COC2=C1C=CC(=C2)CC=2C=C(C=CC2Cl)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO | C20H21ClO7
